US05977105
b) (2S)-5-Oxo-1-(2-oxo-2-phenylacetyl)pyrrolidine-2-carboxylic acid
Trifluoroacetic acid (40 ml) was added to a solution of 5-oxo-1-(2-oxo-2-phenylacetyl)pyrrolidine-2-carboxylic acid tert-butyl ester (5.00 g) in dichloromethane (40 ml) and the solution was stirred for 2 hours. All volatiles were removed under reduced pressure and the residue triturated with ether:hexane (1:1). The white solid was collected by filtration and washed with hexane to give the sub-title compound (4.09 g).

reactant | Trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-oxo-1-(2-oxo-2-phenylacetyl)pyrrolidine-2-carboxylic acid tert-butyl ester | 5.00 g | C(C)(C)(C)OC(=O)C1N(C(CC1)=O)C(C(C1=CC=CC=C1)=O)=O | C17H19NO5
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (2S)-5-Oxo-1-(2-oxo-2-phenylacetyl)pyrrolidine-2-carboxylic acid | 4.09 g | O=C1CC[C@H](N1C(C(C1=CC=CC=C1)=O)=O)C(=O)O | C13H11NO5
